US04481142
2-Amino-9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine
A stirred suspension of 16 g (0.047 mol) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one and 12.5 g (0.07 mol) of guanidine carbonate in 460 ml of methanol was treated at room temperature, under argon, with 7.5 g (0.14 mol) of sodium methylate in one portion. Methylene chloride (290 ml) was added after 10 min. and stirring was continued. The same quantities of sodium methylate and guanidine carbonate were added two more times at 2 hr intervals and stirring was continued overnight. After diluting with 460 ml of methylene chloride, the mixture was washed with water, dried over sodium sulfate and evaporated at reduced pressure. Recrystallization of the residue from ethanol/methylene chloride solution gave off-white crystals: mp 245°-248° C.

reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 0.047 mol, 16 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)F)=CN(C)C)=O)C=C1 | C19H16ClFN2O
reactant | guanidine carbonate | 0.07 mol, 12.5 g | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | 0.14 mol, 7.5 g | C[O-].[Na+]
solvent | methanol | 460 ml | CO | CH4O
solvent | methylene chloride | 460 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 290 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | NC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F | C18H12ClFN4
